US07208513B2
B. N-[3-(5-Cyano-1-perhydro-2H-pyran-2-yl-(1H-indazole-3-yl))phenyl]-2-phenoxypropanamide
To a solution of 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.300 g, 0.94 mmol) in dichloromethane (10 mL) was added 2-phenoxy propionic acid (0.172 g, 1.034 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (0.216 g, 1.13 mmol). After overnight reaction at room temperature, the reaction mixture was partitioned between dichloromethane and water. The organic phase was dried over sodium sulfate and evaporated to dryness. The title compound was purified by column chromatography (SiO2, 25% ethyl acetate in hexanes) (0.370 g, 84%): ES-MS (m/z) 489 [M+Na], 467 [M+H]+.

reactant | 3-(3-aminophenyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.94 mmol, 0.300 g | NC=1C=C(C=CC1)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1 | C19H18N4O
reactant | 2-phenoxy propionic acid | 1.034 mmol, 0.172 g | O(C1=CC=CC=C1)C(C(=O)O)C | C9H10O3
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.13 mmol, 0.216 g | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-[3-(5-Cyano-1-perhydro-2H-pyran-2-yl-(1H-indazole-3-yl))phenyl]-2-phenoxypropanamide | C(#N)C1CCC(OC1)N1N=C(C2=CC=CC=C12)C=1C=C(C=CC1)NC(C(C)OC1=CC=CC=C1)=O | C28H26N4O3
